US05939449
Ethyl 4-(2,6-dimethoxyphenyl)-4-oxido-2-oxo-3-butenoate potassium salt: Compound A1.
A solution of 13.4 g of 95% potassium tert-butylate in 72 ml of ethanol is added over 6 minutes to a solution, stirred and heated to 50° C., of 18 g of 2,6-dimethoxyacetophenone in 54 ml of ethanol. The mixture is heated to reflux, 16.3 ml of ethyl oxalate are added over 9 minutes and refluxing is continued for 1 hour. 40 ml of ethanol are then distilled off and the mixture is allowed to cool with stirring for two and a half hours. The mixture is filtered, and the precipitate is washed with 40 ml of ethanol and dried under vacuum at 60° C. for 17 hours to obtain 31 g of expected product.

reactant | potassium tert-butylate | 13.4 g | CC(C)(C)[O-].[K+]
reactant | 2,6-dimethoxyacetophenone | 18 g | CC(=O)C1=C(C=CC=C1OC)OC | C10H12O3
reactant | ethyl oxalate | 16.3 ml | C(C(=O)[O-])(=O)OCC
solvent | ethanol | 72 ml | C(C)O | C2H6O
solvent | ethanol | 54 ml | C(C)O | C2H6O
product | Ethyl 4-(2,6-dimethoxyphenyl)-4-oxido-2-oxo-3-butenoate potassium salt | 31 g | [K+].COC1=C(C(=CC=C1)OC)C(=CC(C(=O)OCC)=O)[O-] | InChI=1S/C14H16O6.K/c1-4-20-14(17)10(16)8-9(15)13-11(18-2)6-5-7-12(13)19-3;/h5-8,15H,4H2,1-3H3;/q;+1/p-1
